US08791132B2
To a solution of 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile (1.5 g, 4.3 mmol) in tert-butanol (30 mL) was added crushed KOH (728 mg, 13 mmol) and the reaction mixture was stirred at 80° C. for 1 h. The progress of reaction was monitored by LCMS. The reaction mixture was concentrated. The residue was diluted with water (50 mL) and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (2×100 mL), dried over anhydrous sodium sulfate and concentrated. The crude material was purified by reverse phase HPLC to yield 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-pyridine-2-carboxylic acid amide (200 mg). 1H NMR (CDCl3, freebase) δ (ppm): 8.45 (d, 1H), 8.12 (t, 1H), 7.78 (s, 2H), 7.05 (m, 2H), 6.94 (t, 1H), 5.57 (bs,1H), 5.03 (m, 1H), 4.13 (s, 2H), 3.63 (m, 2H), 2.79 (m, 2H), 2.78 (bs 1H), 2.66 (d, 1H), 2.53 (d, 3H), 2.42 (s, 3H). Separation by chiral HPLC provided enantiomers 144a and 144b.

reactant | 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile | 4.3 mmol, 1.5 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C=2C=CC(=NC2)C#N)CC1 | C21H22N4O
reactant | KOH | 13 mmol, 728 mg | [OH-].[K+]
solvent | tert-butanol | 30 mL | C(C)(C)(C)O | C4H10O
product | 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-pyridine-2-carboxylic acid amide | 200 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C=2C=CC(=NC2)C(=O)N)CC1 | C21H24N4O2
